US05998624
1-(4-iodophenyl)-N-methyl-N-(3-fluoropropyl)-3-isoquinolinecarboxamide (9c)
To a solution of 1-(4-iodophenyl)-N-methyl-3-isoquinolinecarboxamide (25 mg, 0.06 mmol) in DMF (4 mL) was added 60% NaH (10 mg, 0.25 mmol) in one portion. The mixture was stirred under Ar at room temperature for 30 min. Then, 3-fluoropropyl bromide (20 μl, 0.27 mmol) was added. After stirring at room temperature for overnight, the mixture was quenched by adding H2O (5 mL). The mixture was extracted with CH2Cl2 (3×15 mL). The combined organic layers were dried (MgSO4), filtered. The filtrate was concentrated in vacuo. The residue was chromatographed (SiO2, 30% ethyl acetate/hexane, 0.035% Et3N), thereby affording a semisolid (11 mg, 40%). 1H NMR (CDCl3) d 2.01-2.22 (m, 2 H, CH2), 3.15, 3.17 (two s, total 3 H, N-methyl), 3.60-3.76 (m, 2 H, N--CH2), 4.22-4.76 (qt, J=77.7, 47.1, 5.7 Hz, 2 H, CH2F), 7.36-7.47 (m, 1 H, aromatic), 7.50-7.81 (m, 4 H, aromatic), 7.82-7.99 (m, 2 H, aromatic), 7.83-8.16 (m, 2 H, aromatic). HRMS calcd. for C20H18FIN2O: 448.0448. Found: 448.0435.

reactant | 1-(4-iodophenyl)-N-methyl-3-isoquinolinecarboxamide | 0.06 mmol, 25 mg | IC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)C(=O)NC | C17H13IN2O
reactant | NaH | 0.25 mmol, 10 mg | [H-].[Na+]
reactant | 3-fluoropropyl bromide | 0.27 mmol, 20 μl | FCCCBr | C3H6BrF
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-(4-iodophenyl)-N-methyl-N-(3-fluoropropyl)-3-isoquinolinecarboxamide | 11 mg, 40% | IC1=CC=C(C=C1)C1=NC(=CC2=CC=CC=C12)C(=O)N(CCCF)C | C20H18FIN2O
